US06515124B2
A mixture of 1H-indole-6-carbonitrile (prepared by the literature procedure: Batcho, A. D.; Leimgruber, W. Organic Syntheses 1985, 63, 214-225; 1.50 g, 10.6 mmol), Raney an nickel and concentrated aqueous ammonia (4 mL) in ethanol (50 mL) was hydrogenated at atmospheric pressure overnight. The mixture was filtered through Celite® and the filter cake was washed thoroughly with ethanol, while taking care not to allow the catalyst to become dry. The combined filtrates were concentrated to give 1H-indole-6-methanamine (1.50 g, 97% yield).

reactant | 1H-indole-6-carbonitrile | N1C=CC2=CC=C(C=C12)C#N | C9H6N2
reactant | ammonia | 4 mL | N | H3N
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | nickel | [Ni] | Ni
product | 1H-indole-6-methanamine | 1.50 g, 97% yield | N1C=CC2=CC=C(C=C12)CN | C9H10N2
